US04645846
Preparation of 4-(3-Triethoxysilylpropyl)Semicarbazide (XII)
A mixture of 44.2 g (0.20 mole) 3-aminopropyltriethoxysilane and 18.0 g (0.20 mole) methyl hydrazinocarboxylate under nitrogen was gradually heated to 150° C. with a slow distillation of the evolved methanol/ethanol from the reaction. After 2 hours at 150° C., 9.1 g. of distillate had been collected, and the reaction mass was cooled to ambient. The pale yellow oil was decanted from the small amount of white solid; yield 51 g (91%). IR (neat) 3320, 1640 (br), 1540 (br), 1070 (br), 940, 790 cm-1. NMR (CDCl3) 0.4-1.0 (m; 2H), 1.2 (t; 9H), 1.3-2.0 (m; 2H), 2.9-3.5 (m; 2H), 3.5-4.1 (m; 8H), 6.3 (br; 2H) ppm.

reactant | 3-aminopropyltriethoxysilane | 0.20 mole, 44.2 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | methyl hydrazinocarboxylate | 0.20 mole, 18.0 g | N(N)C(=O)OC | C2H6N2O2
solvent | methanol ethanol | CO.C(C)O
product | 4-(3-Triethoxysilylpropyl)Semicarbazide | C(C)O[Si](CCCNC(NN)=O)(OCC)OCC | C10H25N3O4Si
